US08080552B2
A solution of 281 mg (1.27 mmol) 4-chloro-3-trifluoromethyl-phenyl isocyanate in 3 ml THF was added within 5 min. drop by drop at 0° C. to a solution of 340 mg (1.27 mmol) 2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine and stirring continued at r.t. overnight. The reaction mixture was evaporated and purified by chromatography on silica (ethyl acetate/isohexane 1:4) to give 162 mg (26%) 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea.

reactant | 4-chloro-3-trifluoromethyl-phenyl isocyanate | 1.27 mmol, 281 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | 2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 1.27 mmol, 340 mg | ClC1=C(C=CC(=C1)OC1=NC(=NC=C1)SC)N | C11H10ClN3OS
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-chloro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea | 162 mg, 26% | ClC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC1=NC(=NC=C1)SC)Cl)C(F)(F)F | C19H13Cl2F3N4O2S
